### PR TITLE
[Merged by Bors] - chore: golf using `finiteness`

### PR DESCRIPTION
**Pull request by grunweg**
Also import `Mathlib.Tactic.Finiteness` in `Data.ENNReal.Basic`, so downstream files often don't need to use it.

---

- [ ] depends on: #25086

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by grunweg** [comment]
!bench

**Comment by grunweg** [comment]
Those benchmarking results are strange: let's see if rebasing everything on current master helps.

File: Mathlib/Analysis/Normed/Lp/ProdLp.lean [hunk 1]
```diff
@@ -6,7 +6,7 @@ Authors: Moritz Doll, Sébastien Gouëzel, Jireh Loreaux
 
 import Mathlib.Analysis.MeanInequalities
 import Mathlib.Analysis.Normed.Lp.WithLp
-
+import Mathlib.Tactic.Finiteness
```
Comment (fpvandoorn) [inline Mathlib/Analysis/Normed/Lp/ProdLp.lean:9]: How many transitive imports are added when `Data/ENNReal/Basic` imports `Finiteness`? Presumably very few, and that would just make it available everywhere.

File: Mathlib/MeasureTheory/Integral/MeanInequalities.lean [hunk 2]
```diff
@@ -284,17 +285,12 @@ theorem lintegral_rpow_add_lt_top_of_lintegral_rpow_lt_top {p : ℝ} {f g : α 
...
-        exact two_ne_zero
+      · finiteness
     _ < ⊤ := by
-      have h_two : (2 : ℝ≥0∞) ^ (p - 1) ≠ ⊤ :=
-        ENNReal.rpow_ne_top_of_nonneg (by simp [hp1]) ENNReal.coe_ne_top
       rw [lintegral_add_left', lintegral_const_mul'' _ (hf.pow_const p),
-        lintegral_const_mul' _ _ h_two, ENNReal.add_lt_top]
-      · exact ⟨ENNReal.mul_lt_top h_two.lt_top hf_top, ENNReal.mul_lt_top h_two.lt_top hg_top⟩
-      · exact (hf.pow_const p).const_mul _
+        lintegral_const_mul' _ _ (by finiteness), ENNReal.add_lt_top]
```
Comment (fpvandoorn) [inline Mathlib/MeasureTheory/Integral/MeanInequalities.lean:291]: regression?

**Review by fpvandoorn — COMMENTED** [review]
LGTM

bors d+

File: Mathlib/MeasureTheory/Integral/MeanInequalities.lean (hunk 2 above)
Comment (grunweg) [reply Mathlib/MeasureTheory/Integral/MeanInequalities.lean:290]: Actually, I was wrong: in turn for the `by finiteness`, I'm removing a hypothesis above which was proved in two lines. Overall, I consider this an improvement.
